US09339503B2
2-(4-Benzoylpiperazin-1-yl)-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A17”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol), phenylpiperazin-1-ylmethanone hydrochloride (115.5 mg; 0.51 mmol) and triethylamine (141.3 μl; 1.02 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 9 (reaction time 6 h) and worked up. The crystals obtained after purification by column chromatography are dissolved in acetonitrile and water and freeze-dried; yield: 47 mg (27%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | phenylpiperazin-1-ylmethanone hydrochloride | 0.51 mmol, 115.5 mg | Cl.C1(=CC=CC=C1)C(=O)N1CCNCC1
reactant | triethylamine | 1.02 mmol, 141.3 μl | C(C)N(CC)CC | C6H15N
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-(4-Benzoylpiperazin-1-yl)-5,6,7,8-tetrahydro-3H-quinazolin-4-one | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C19H22N4O2
